US08222416B2
A solution of 2-(1-(3-chloro-phenyl)-3-methyl-but-1-enyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (2.5 g, 5.7 mmol) in ethanol (45 mL) and tetrahydrofuran (90 mL) was treated with a 10% aqueous sodium hydroxide solution (15 mL). The reaction was stirred at 70° C. for 16 h. The solvent was removed in vacuo and the obtained precipitate was filtered and washed with water (3×50 mL) and ethyl acetate (20 mL) to afford 2-(1-(3-chloro-phenyl)-3-methyl-but-1-enyl)-1H-pyrrolo[2,3-b]pyridine (1.3 g, 77%) as a white solid: 1H NMR (300 MHz, d6-DMSO) δ ppm 11.57 (s, 1H), 8.17 (dd, 1H, J1=4.5 Hz, J2=1.5 Hz), 7.93 (dd, 1H, J1=8.4 Hz, J2=1.8 Hz), 7.31 (m, 2H), 7.21 (m, 1H), 7.15 (m, 1H), 7.05 (m, 1H), 6.40 (s, 1H), 6.21 (d, 1H, J=9.9 Hz), 2.57 (m, 1H), 1.03-1.01 (m, 6H).

reactant | 2-(1-(3-chloro-phenyl)-3-methyl-but-1-enyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 5.7 mmol, 2.5 g | ClC=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=CC=C1 | C24H21ClN2O2S
reactant | sodium hydroxide | 15 mL | [OH-].[Na+]
solvent | ethanol | 45 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
product | 2-(1-(3-chloro-phenyl)-3-methyl-but-1-enyl)-1H-pyrrolo[2,3-b]pyridine | 1.3 g, 77% | ClC=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1 | C18H17ClN2
